US07994179B2
Intermediate 1-7: Ethyl 2-diazo-3-oxobutanoate
Polymer-bound tosylazide (11 g, 15.4 mmol) (typical loading 1.4 mmol/g, prepared according to Merz et al J. Org. Chem. 2001, 66, 2509-2511) was swollen in dry DCM (40 mL). Ethyl acetoacetate (1.0 g, 7.7 mmol, CAS 141-97-9) and TEA (3.2 mL, 23.1 mmol) were dissolved in DCM (10 mL) and added to the polymer containing solution. The resulting mixture was then shaken at RT under nitrogen until the reaction was judged completed by TLC, typically 6 h. The supernatant was filtered off, then the resin was washed with DCM (3×30 mL) to rinse out residual product. The reaction mixture was then evaporated to dryness to afford the title compound (1.1 g, 92%) as yellow oil.

reactant | tosylazide | 15.4 mmol, 11 g | S(=O)(=O)(C1=CC=C(C)C=C1)N=[N+]=[N-] | C7H7N3O2S
reactant | Ethyl acetoacetate | 7.7 mmol, 1.0 g | C(CC(=O)C)(=O)OCC | C6H10O3
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 2-diazo-3-oxobutanoate | 1.1 g, 92% | [N+](=[N-])=C(C(=O)OCC)C(C)=O | C6H8N2O3
